US07214800B2
a) 2-{4-[1-(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propylamino]-3-oxo-butyl }-isoindole-1,3-dione
A suspension of 2-(1-amino-2-methyl-propyl)-3-benzyl-7-chloro-3H-quinazolin-4-one (1.0 g, 2.93 mmol), 2-(4-bromo-3-oxo-butyl)-isoindole-1,3-dione (867 mg., 2.93 mmol, prepared as described in WO 89/10360), and potassium carbonate (405 mg, 2.93 mmol) in DMF (14 mL) was stirred at room temperature for 80 minutes. The reaction was diluted with water and the resulting white solid (1.6 g.) was used in the subsequent step without further purification.

reactant | 2-(1-amino-2-methyl-propyl)-3-benzyl-7-chloro-3H-quinazolin-4-one | 2.93 mmol, 1.0 g | NC(C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl | C19H20ClN3O
reactant | 2-(4-bromo-3-oxo-butyl)-isoindole-1,3-dione | 2.93 mmol, 867 mg | BrCC(CCN1C(C2=CC=CC=C2C1=O)=O)=O | C12H10BrNO3
reactant | potassium carbonate | 2.93 mmol, 405 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-{4-[1-(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propylamino]-3-oxo-butyl }-isoindole-1,3-dione | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)C(C(C)C)NCC(CCN1C(C2=CC=CC=C2C1=O)=O)=O | C31H29ClN4O4
